US04042701
The mixture of 4.6 g of 7,7-diphenyl-hexahydro-1,4-oxazepine, 1.88 g of 4-chlorobutyronitrile, 1.88 g of anhydrous sodium carbonate, 0.3 g of sodium iodide and 60 ml of 2-methyl-4-pentanone is stirred at reflux for 23 hours and evaporated. The residue is partitioned between diethyl ether and water, the ethereal solution separated, washed with saturated aqueous sodium chloride, dried and evaporated, to give the 4-(3-cyanopropyl)-7,7-diphenyl-hexahydro-1,4-oxazepine melting at 89°-90°. (Analogously the 4-(4-cyanobutyl and 6-cyanohexyl)-7,7-diphenyl-hexahydro-1,4-oxazepines are prepared, melting at 67°-69° and showing an I.R. band at 2252cm-1 respectively).

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 4.6 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | 4-chlorobutyronitrile | 1.88 g | ClCCCC#N | C4H6ClN
reactant | sodium carbonate | 1.88 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | 2-methyl-4-pentanone | 60 ml | CC(C)CC(C)=O | C6H12O
product | 4-(3-cyanopropyl)-7,7-diphenyl-hexahydro-1,4-oxazepine | C(#N)CCCN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H24N2O
